* C:\Users\Christopher\Documents\GitHub\UOWC\development\tx_circuit.asc
XU1 N003 N004 N001 0 N005 NC_01 NC_02 NC_03 AD8099
V1 N002 0 3.3
V2 N008 0 PULSE(0 3.3 0.1 0.01 0.01 0.01 0 50)
V3 N001 0 7
Q1 N001 N006 N007 0 2SCR293P
D1 N007 0 LXK2-PW14
R1 N003 N002 100
R2 N004 N008 100
R3 N005 N004 200
R4 N003 0 100
XU2 N005 N007 N001 0 N006 NC_04 NC_05 NC_06 AD8099
R5 N007 0 5
.model D D
.lib C:\Users\Christopher\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Christopher\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.lib C:\Users\Christopher\Downloads\ad8099.cir
.backanno
.end
